US06310095B1
To a solution of L-pyroglutamic acid (49 mg, 0.38 mmol) in 5 mL of DMF was added 3-hydroxy,1,2,3-benzotriazin-4(3H)-one (62 mg, 0.38 mmol), (3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (58 mg, 0.30 mmol) and [4-amino-2-phenylbenzoyl-L-methionine methyl ester (90 mg, 0.38 mmol), prepared as in Example 192B, and the reaction mixture was stirred at 25° C. for 12 hours. The reaction mixture was taken up in ethyl acetate and washed with 10 mL 1N HCl, 5 mL satd aqueous NaHCO3 and brine (3×10 mL). The organic layer was dried over Na2SO4, filtered and evaporated. Purification by radial chromatography (2-5% methanol-ethyl acetate gradient) to give [4-(2-pyrrolidinone-5-ylcarbonylamino)-2-phenylbenzoyl]methionine methyl ester (92 mg, 79%) as a white solid.

reactant | L-pyroglutamic acid | 0.38 mmol, 49 mg | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | 3-hydroxy,1,2,3-benzotriazin-4(3H)-one | 0.38 mmol, 62 mg | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | (3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.30 mmol, 58 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-amino-2-phenylbenzoyl-L-methionine methyl ester | 0.38 mmol, 90 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | C19H22N2O3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(2-pyrrolidinone-5-ylcarbonylamino)-2-phenylbenzoyl]methionine methyl ester | 92 mg, 79% | COC([C@@H](NC(C1=C(C=C(C=C1)NC(=O)C1CCC(N1)=O)C1=CC=CC=C1)=O)CCSC)=O | C24H27N3O5S
